simulator lang=spectre
global 0

ahdl_include "./dut/differential_vco_clip_idtmod.va"

// Feedback testbench for differential_vco_clip_idtmod.
// Differential input visits lower-clamp, nominal, and upper-clamp frequency regions.
Vinp (vinp 0) vsource type=pwl wave=[0 0.25 450n 0.25 450.1n 0.65 950n 0.65 950.1n 0.85 1.6u 0.85]
Vinm (vinm 0) vsource type=pwl wave=[0 0.55 450n 0.55 450.1n 0.35 950n 0.35 950.1n 0.35 1.6u 0.35]
XDUT (vinp vinm outp outm metric) differential_vco_clip_idtmod

tran tran stop=1.6u maxstep=4n
save vinp vinm outp outm metric
